US07632851B2
c) [(Benzo[1,2,5]oxadiazole-5-carbonyl)-amino]-acetic acid methyl ester
492 mg (3 mmol) benzo[1,2,5]oxadiazole-5-carboxylic acid 376 mg (1 eq.) glycine methyl ester hydrochloride, 486 mg (1.2 eq.) HOBt and 690 mg (1.2 eq.) EDC.HCl are dissolved in 20 mL DMF under argon and the reaction mixture is stirred at room temperature for 90 minutes after addition of 2 mL (4 eq.) Hünig's base. The reaction mixture is poured onto ice and brine, and extracted with ethyl acetate. The combined organic phases are dried with sodium sulfate and evaporated to yield the desired product as a beige powder. MS (ES+): 236 (M+1).

reactant | benzo[1,2,5]oxadiazole-5-carboxylic acid | 3 mmol, 492 mg, 1 eq. | N1=C2C(=NO1)C=C(C=C2)C(=O)O | C7H4N2O3
reactant | HOBt | 486 mg, 1.2 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 690 mg, 1.2 eq. | CCN=C=NCCCN(C)C.Cl
reactant | Hünig's base | 2 mL, 4 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | [(Benzo[1,2,5]oxadiazole-5-carbonyl)-amino]-acetic acid methyl ester | COC(CNC(=O)C=1C=CC=2C(=NON2)C1)=O | C10H9N3O4
